US08563565B2
(1) Synthesis of 4-chloro-2,6-dimethylpyridine
2,6-dimethyl-4-hydroxypyridine (1 g) was added to phosphoryl chloride (5 mL). The solution was stirred at 100° C. for six hours. The reaction mixture was partitioned by adding water, a 5 N aqueous sodium hydroxide solution and ethyl acetate. The organic layer was washed with brine and then dried over anhydrous magnesium sulfate. The desiccant was removed by filtration. The filtrate was concentrated under reduced pressure to give the title compound (1.15 g).

reactant | 2,6-dimethyl-4-hydroxypyridine | 1 g | CC1=NC(=CC(=C1)O)C | C7H9NO
reactant | phosphoryl chloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2,6-dimethylpyridine | 1.15 g | ClC1=CC(=NC(=C1)C)C | C7H8ClN
